US07687508B2
N-((1R,2S,5R)-5-(dimethylamino)-2-((3S)-2-oxo-3-((6-(trifluoromethyl)-4-quinazolinyl)amino)-1-pyrrolidinyl)cyclohexyl)acetamide
To a solution of N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(dimethylamino)cyclohexyl)acetamide (40 mg, 0.14 mmol) in isopropanol (6 mL) was added 4-chloro-6-(trifluoromethyl)quinazoline (39 mg, 0.17 mmol) and triethylamine (0.02 mL, 0.14 mmol). The mixture was stirred at RT for 16 h and concentrated in vacuo to a crude oil, which was purified by semi-preparative reverse phase HPLC (gradient elution, water/methanol/TFA) to give the title compound (70 mg, 71% yield). LC/MS found [M+H]+=479. 1H-NMR (400 MHz, CD3OD), δ ppm: 8.87 (s, 1H), 8.72 (s, 1H), 8.22 (m, 1H), 7.87 (m, 1H), 5.49 (m, 1H), 4.23 (m, 1H), 4.2 (m, 1H), 4.12 (m, 1H), 3.75 (m, 1H), 3.65 (m, 1H), 3.38 (m, 1H), 2.82 (s, 6H), 2.51 (m, 1H), 2.35 (m, 1H), 2.15 (m, 1H), 2.14-1.86 (m, 5H), 1.84 (s, 3H).

reactant | N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(dimethylamino)cyclohexyl)acetamide | 0.14 mmol, 40 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C)NC(C)=O)=O | C14H26N4O2
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 0.17 mmol, 39 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | 0.14 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | N-((1R,2S,5R)-5-(dimethylamino)-2-((3S)-2-oxo-3-((6-(trifluoromethyl)-4-quinazolinyl)amino)-1-pyrrolidinyl)cyclohexyl)acetamide | 70 mg, 71% yield | CN([C@@H]1CC[C@@H]([C@@H](C1)NC(C)=O)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)C | C23H29F3N6O2
